US06815139B2
275 ml of methacryloyl chloride (2.75 mol=1.1 equiv.) was added dropwise to a cooled suspension of 345 g of 4-nitro aniline (2.5 mol) and 290 g of Na2CO3 (2.75 mol =1.1 equiv.) in 2.5 liter acetone. After completing the addition, stirring was continued for 30 min at 30° C. After TLC inspection the reaction mixture was poured into 15 liter of ice-water under stirring. The precipitate was suction-filtered and washed 3 times with 2.5 liter of demineralised water. After drying at 50° C., 476.5 g of 2-methyl-N-(4-nitro phenyl) acrylamide was obtained.

reactant | methacryloyl chloride | 2.75 mol, 275 ml, 1.1 equiv. | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | 4-nitro aniline | 2.5 mol, 345 g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | Na2CO3 | 2.75 mol, 290 g, 1.1 equiv. | C(=O)([O-])[O-].[Na+].[Na+]
solvent | acetone | 2.5 liter | CC(=O)C | C3H6O
product | 2-methyl-N-(4-nitro phenyl) acrylamide | 476.5 g | CC(C(=O)NC1=CC=C(C=C1)[N+](=O)[O-])=C | C10H10N2O3
